* C:\Users\fsupreet\Downloads\DRAM-Voltage-Study-master (1)\DRAM-Voltage-Study-master\SPICE_circuit_model\4-bit combination with ADC for encoded binary.asc
M1 N076 sense_N 0 0 nmos45lp l=0.27um w=0.22um
M2 bitline1_1 bitline0_1 N077 0 nmos45hp l=0.16um w={ntw}
M3 bitline0_1 bitline1_1 N076 0 nmos45hp l=0.16um w={ntw}
M4 bitline1_1 Eq bitline0_1 0 nmos45hp l=0.16um w={prentw}
M5 bitline0_1 Eq VDDby2 0 nmos45hp l=0.16um w={prentw}
M6 VDDby2 Eq bitline1_1 0 nmos45hp l=0.16um w={prentw}
M7 sa1 ra0 N012 0 nmos45lp l=0.085um w=0.555um
Cmbit1 N023 N025 24fF
M8 N087 ra3 mbz 0 nmos45lp l=0.085um w=0.055um
Cmbit2 mbz 0 24fF
M9 N044 sense_p VDD VDD pmos45lp l=0.27um w=0.22um
M10 bitline1_1 bitline0_1 N053 VDD pmos45hp l=0.16um w={tw}
M11 bitline0_1 bitline1_1 N044 VDD pmos45hp l=0.16um w={tw}
Cmbit3 sa1 0 0.5625fF
Cmbit4 N064 0 0.5625fF
R1 sa1 bitline0_1 39
R2 bitline1_1 N064 39
R3 0 N025 30000
R4 N012 N023 1000
R5 N064 N087 1000
R6 N053 N044 25000
R7 N077 N076 25000
M12 bitline0_1 EqNot VDDby2 VDD pmos45hp l=0.16um w={pretw}
M13 VDDby2 EqNot bitline1_1 VDD pmos45hp l=0.16um w={pretw}
M14 N084 sense_N 0 0 nmos45lp l=0.27um w=0.22um
M15 bitline1_2 bitline0_2 N085 0 nmos45hp l=0.16um w={ntw}
M16 bitline0_2 bitline1_2 N084 0 nmos45hp l=0.16um w={ntw}
M17 bitline1_2 Eq bitline0_2 0 nmos45hp l=0.16um w={prentw}
M18 bitline0_2 Eq VDDby2 0 nmos45hp l=0.16um w={prentw}
M19 VDDby2 Eq bitline1_2 0 nmos45hp l=0.16um w={prentw}
M20 sa2 ra0 N020 0 nmos45lp l=0.085um w=0.555um
Cmbit5 mb2 N032 24fF
M21 N090 ra3 mbz 0 nmos45lp l=0.085um w=0.055um
Cmbit6 mbz 0 24fF
M22 N050 sense_p VDD VDD pmos45lp l=0.27um w=0.22um
M23 bitline1_2 bitline0_2 N057 VDD pmos45hp l=0.16um w={tw}
M24 bitline0_2 bitline1_2 N050 VDD pmos45hp l=0.16um w={tw}
Cmbit7 sa2 0 0.5625fF
R8 sa2 bitline0_2 39
R9 bitline1_2 N060 39
R10 0 N032 30000
R11 N020 mb2 1000
R12 N060 N090 1000
R13 N057 N050 25000
R14 N085 N084 25000
M25 bitline0_2 EqNot VDDby2 VDD pmos45hp l=0.16um w={pretw}
M26 VDDby2 EqNot bitline1_2 VDD pmos45hp l=0.16um w={pretw}
M27 N069 sense_N 0 0 nmos45lp l=0.27um w=0.22um
M28 bitline1_3 bitline0_3 N070 0 nmos45hp l=0.16um w={ntw}
M29 bitline0_3 bitline1_3 N069 0 nmos45hp l=0.16um w={ntw}
M30 bitline1_3 Eq bitline0_3 0 nmos45hp l=0.16um w={prentw}
M31 bitline0_3 Eq VDDby2 0 nmos45hp l=0.16um w={prentw}
M32 VDDby2 Eq bitline1_3 0 nmos45hp l=0.16um w={prentw}
M33 sa3 ra0 N016 0 nmos45lp l=0.085um w=0.555um
Cmbit9 mb3 N028 24fF
M34 N078 ra3 mbz 0 nmos45lp l=0.085um w=0.055um
Cmbit10 mbz 0 24fF
M35 N040 sense_p VDD VDD pmos45lp l=0.27um w=0.22um
M36 bitline1_3 bitline0_3 N045 VDD pmos45hp l=0.16um w={tw}
M37 bitline0_3 bitline1_3 N040 VDD pmos45hp l=0.16um w={tw}
Cmbit11 sa3 0 0.5625fF
Cmbit12 N061 0 0.5625fF
R15 sa3 bitline0_3 39
R16 bitline1_3 N061 39
R17 0 N028 30000
R18 N016 mb3 1000
R19 N061 N078 1000
R20 N045 N040 25000
R21 N070 N069 25000
M38 bitline0_3 EqNot VDDby2 VDD pmos45hp l=0.16um w={pretw}
M39 VDDby2 EqNot bitline1_3 VDD pmos45hp l=0.16um w={pretw}
M40 N079 sense_N 0 0 nmos45lp l=0.27um w=0.22um
M41 bitline1_4 bitline0_4 N080 0 nmos45hp l=0.16um w={ntw}
M42 bitline0_4 bitline1_4 N079 0 nmos45hp l=0.16um w={ntw}
M43 bitline1_4 Eq bitline0_4 0 nmos45hp l=0.16um w={prentw}
M44 bitline0_4 Eq VDDby2 0 nmos45hp l=0.16um w={prentw}
M45 VDDby2 Eq bitline1_4 0 nmos45hp l=0.16um w={prentw}
M46 sa4 ra0 N021 0 nmos45lp l=0.085um w=0.555um
Cmbit13 mb4 N033 24fF
M47 N088 ra3 mbz 0 nmos45lp l=0.085um w=0.055um
Cmbit14 mbz 0 24fF
M48 N046 sense_p VDD VDD pmos45lp l=0.27um w=0.22um
M49 bitline1_4 bitline0_4 N054 VDD pmos45hp l=0.16um w={tw}
M50 bitline0_4 bitline1_4 N046 VDD pmos45hp l=0.16um w={tw}
Cmbit15 sa4 0 0.5625fF
Cmbit16 N065 0 0.5625fF
R22 sa4 bitline0_4 39
R23 bitline1_4 N065 39
R24 0 N033 30000
R25 N021 mb4 1000
R26 N065 N088 1000
R27 N054 N046 25000
R28 N080 N079 25000
M51 bitline0_4 EqNot VDDby2 VDD pmos45hp l=0.16um w={pretw}
M52 VDDby2 EqNot bitline1_4 VDD pmos45hp l=0.16um w={pretw}
Cmbit17 charge_pump 0 {cap}
Cmbit18 charge_pump 0 {cap}
Cmbit19 charge_pump 0 {cap}
Cmbit20 charge_pump 0 {cap}
M53 charge_pump Vcp N009 0 nmos45lp l=0.085um w=0.555um
M54 N027 sa4 sa4 0 nmos45lp l=0.085um w=0.555um
M55 N006 K1 N027 0 nmos45lp l=0.085um w=0.555um
M57 N024 sa3 sa3 0 nmos45hp l=0.16um w={prentw}
M58 N005 K1 N024 0 nmos45hp l=0.16um w={prentw}
M60 N026 sa2 sa2 0 nmos45hp l=0.16um w={prentw}
M61 N008 K1 N026 0 nmos45hp l=0.16um w={prentw}
M62 N007 K1 N015 0 nmos45hp l=0.16um w={prentw}
Cmbit22 N006 0 1.17fF
R30 N006 N005 4
Cmbit23 N005 0 1.17fF
R31 N005 N008 4
Cmbit24 N008 0 1.17fF
R32 N008 N007 4
M65 N015 sa1 sa1 0 nmos45lp l=0.085um w=0.555um
Cmbit21 N009 0 0.5964pF
R29 N009 N006 2036
M56 N067 sense_Nb 0 0 nmos45lp l=0.27um w=0.22um
M59 N047 N035 N068 0 nmos45hp l=0.16um w={ntw}
M63 N035 N047 N067 0 nmos45hp l=0.16um w={ntw}
M64 N047 Eqb N035 0 nmos45hp l=0.16um w={prentw}
M66 N035 Eqb VDDB1by2 0 nmos45hp l=0.16um w={prentw}
M67 VDDB1by2 Eqb N047 0 nmos45hp l=0.16um w={prentw}
M68 N010 rb0 N017 0 nmos45lp l=0.085um w=0.555um
Cmbit25 C1 N029 24fF
M69 N073 rb3 mbz 0 nmos45lp l=0.085um w=0.055um
Cmbit26 mbz 0 24fF
M70 N039 sense_Pb VDD VDD pmos45lp l=0.27um w=0.22um
M71 N047 N035 N042 VDD pmos45hp l=0.16um w={tw}
M72 N035 N047 N039 VDD pmos45hp l=0.16um w={tw}
Cmbit27 N010 0 0.5625fF
Cmbit28 N059 0 0.5625fF
R33 N010 N035 39
R34 N047 N059 39
R35 0 N029 30000
R36 N017 C1 1000
R37 N059 N073 1000
R38 N042 N039 25000
R39 N068 N067 25000
M73 N035 EqbNot VDDB1by2 VDD pmos45hp l=0.16um w={pretw}
M74 VDDB1by2 EqbNot N047 VDD pmos45hp l=0.16um w={pretw}
M75 MSB_1 B1 N010 0 nmos45lp l=0.085um w=0.555um
M76 N071 sense_Nb 0 0 nmos45lp l=0.27um w=0.22um
M77 N051 N036 N072 0 nmos45hp l=0.16um w={ntw}
M78 N036 N051 N071 0 nmos45hp l=0.16um w={ntw}
M79 N051 Eqb N036 0 nmos45hp l=0.16um w={prentw}
M80 N036 Eqb VDDB2by2 0 nmos45hp l=0.16um w={prentw}
M81 VDDB2by2 Eqb N051 0 nmos45hp l=0.16um w={prentw}
M82 N011 rb0 N018 0 nmos45lp l=0.085um w=0.555um
Cmbit30 C2 N030 24fF
M83 N081 rb3 mbz 0 nmos45lp l=0.085um w=0.055um
Cmbit31 mbz 0 24fF
M84 N041 sense_Pb VDD VDD pmos45lp l=0.27um w=0.22um
M85 N051 N036 N048 VDD pmos45hp l=0.16um w={tw}
M86 N036 N051 N041 VDD pmos45hp l=0.16um w={tw}
Cmbit32 N011 0 0.5625fF
R43 0 N030 30000
R44 N018 C2 1000
R45 N062 N081 1000
R46 N048 N041 25000
R47 N072 N071 25000
M87 N036 EqbNot VDDB2by2 VDD pmos45hp l=0.16um w={pretw}
M88 VDDB2by2 EqbNot N051 VDD pmos45hp l=0.16um w={pretw}
M89 MSB_2 B1 N011 0 nmos45lp l=0.085um w=0.555um
Vra4 K1 0 PWL(39n 0 39.1n 0 55n 2.9V 55.2n 2.9V 65n 2.9V) Rser=16 Cpar=4.68f
M90 N074 sense_Nb 0 0 nmos45lp l=0.27um w=0.22um
M91 N055 N037 N075 0 nmos45hp l=0.16um w={ntw}
M92 N037 N055 N074 0 nmos45hp l=0.16um w={ntw}
M93 N055 Eqb N037 0 nmos45hp l=0.16um w={prentw}
M94 N037 Eqb VDDB3by2 0 nmos45hp l=0.16um w={prentw}
M95 VDDB3by2 Eqb N055 0 nmos45hp l=0.16um w={prentw}
M96 N013 rb0 N019 0 nmos45lp l=0.085um w=0.555um
Cmbit35 C3 N031 24fF
M97 N086 rb3 mbz 0 nmos45lp l=0.085um w=0.055um
Cmbit36 mbz 0 24fF
M98 N043 sense_Pb VDD VDD pmos45lp l=0.27um w=0.22um
M99 N055 N037 N052 VDD pmos45hp l=0.16um w={tw}
M100 N037 N055 N043 VDD pmos45hp l=0.16um w={tw}
R51 0 N031 30000
R52 N019 C3 1000
R53 N063 N086 1000
R54 N052 N043 25000
R55 N075 N074 25000
M101 N037 EqbNot VDDB3by2 VDD pmos45hp l=0.16um w={pretw}
M102 VDDB3by2 EqbNot N055 VDD pmos45hp l=0.16um w={pretw}
M103 MSB_3 B1 N013 0 nmos45lp l=0.085um w=0.555um
M104 N082 sense_Nb 0 0 nmos45lp l=0.27um w=0.22um
M105 N058 N038 N083 0 nmos45hp l=0.16um w={ntw}
M106 N038 N058 N082 0 nmos45hp l=0.16um w={ntw}
M107 N058 Eqb N038 0 nmos45hp l=0.16um w={prentw}
M108 N038 Eqb VDDB4by2 0 nmos45hp l=0.16um w={prentw}
M109 VDDB4by2 Eqb N058 0 nmos45hp l=0.16um w={prentw}
M110 N014 rb0 N022 0 nmos45lp l=0.085um w=0.555um
Cmbit40 C4 N034 24fF
M111 N089 rb3 mbz 0 nmos45lp l=0.085um w=0.055um
Cmbit41 mbz 0 24fF
M112 N049 sense_Pb VDD VDD pmos45lp l=0.27um w=0.22um
M113 N058 N038 N056 VDD pmos45hp l=0.16um w={tw}
M114 N038 N058 N049 VDD pmos45hp l=0.16um w={tw}
R59 0 N034 30000
R60 N022 C4 1000
R61 N066 N089 1000
R62 N056 N049 25000
R63 N083 N082 25000
M115 N038 EqbNot VDDB4by2 VDD pmos45hp l=0.16um w={pretw}
M116 VDDB4by2 EqbNot N058 VDD pmos45hp l=0.16um w={pretw}
M117 MSB_4 B1 N014 0 nmos45lp l=0.085um w=0.555um
Cmbit45 N060 0 0.5625fF
Cmbit8 N062 0 0.5625fF
R41 N051 N062 39
Cmbit33 N063 0 0.5625fF
R42 N055 N063 39
Cmbit37 N066 0 0.5625fF
R49 N058 N066 39
R50 N011 N036 39
R57 N013 N037 39
R58 N014 N038 39
Cmbit38 N013 0 0.5625fF
Cmbit42 N014 0 0.5625fF
Vra5 B1 0 PWL(46n 0 47n 0 47.01n 2.9V 50n 2.9V 50.01n 0 60n 0 61n 0 96n 0)
Vsn5 sense_Nb 0 PWL(19n {0} 19.1n {0} 34.9n {0} 35n {vdd} 58.01n {vdd} 82n {vdd} 82.1n {0} 83n {0}) Rser=100 Cpar=10fF
Vra6 rb0 0 PWL(16.9n 0 17n 0 54n 0 54.01n 2.9V 71n 2.9V 71.01n 0V 86n 0V)
Vsp2 sense_Pb 0 PWL(19n {vdd} 19.1n {vdd} 34.9n {vdd} 35n {0} 58.01n {0} 82n {0} 82.01n {vdd} 83n {vdd}) Rser=100 Cpar=10fF
Veq_bnot1 EqbNot 0 PWL(0n 0 34n 0 35n 0 35.01n 1.5V 46n 1.5V 61n 1.5V 68n 1.5V)
Veq_b1 Eqb 0 PWL(0n 1.5V 34n 1.5V 35n 1.5V 35.01n 0 46n 0 61n 0 68n 0)
VDDB1 VDDB1by2 0 {vddhalfb1}
VDDB3\ VDDB3by2 0 {vddhalfb3}
VDDB2 VDDB2by2 0 {vddhalfb2}
VDDB4 VDDB4by2 0 {vddhalfb4}
Vra7 discharge 0 PWL(45n 0 45.01n 2.9V 50n 2.9V 50.01n 0 60n 0 61n 0 96n 0)
M119 charge_pump discharge N001 0 nmos45lp l=0.085um w=0.555um
Cmbit46 MSB_4 0 1.17fF
Cmbit47 MSB_3 0 1.17fF
Cmbit48 MSB_2 0 1.17fF
Cmbit49 MSB_1 0 1.17fF
M120 MSB_1 discharge N002 0 nmos45lp l=0.085um w=0.555um
M121 MSB_2 discharge N003 0 nmos45lp l=0.085um w=0.555um
M122 MSB_3 discharge N004 0 nmos45lp l=0.085um w=0.555um
M124 MSB_4 discharge 0 0 nmos45lp l=0.085um w=0.555um
R66 MSB_4 N004 4
R67 MSB_3 N003 4
R68 MSB_2 N002 4
R69 MSB_1 N001 4
Vsn1 sense_N 0 PWL(13n 0 13.01n {vdd} 58.9n {vdd} 59n 0 65n 0) Rser=100 Cpar=10fF
Vra1 ra0 0 PWL(12n 0 12.1n 2.9 30n 2.9 30.1n 0) Rser=2048 Cpar=0.6pf
Vsp1 sense_P 0 PWL(13n {vdd} 13.1n 0 58.9n 0 59n {vdd} 65n {vdd}) Rser=100 Cpar=10fF
Vsn2 Vcp 0 PWL(25n 0 25.01n 2.9 59n 2.9 59.1n 2.9 65n 2.9) Rser=100 Cpar=24fF
Veq1 EqNot 0 PWL(0n 0 10n 0 10.01n 1.5 59.9n 1.5 60.9n 1.5 61n 1.5 68n 1.5)
Veq2 Eq 0 PWL(0n 1.5 10n 1.5 10.01n 0 59.9n 0 60.9n 0 61n 0 68n 0)
VDD1 VDD 0 {vdd}
VDDby1 VDDby2 0 {vddhalf}
Vra2 K1 0 PWL(30n 0 30.01n 2.9 50n 2.9 50.01n 0 65n 0) Rser=16 Cpar=4.68f
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\fsupreet\OneDrive - Qualcomm\Documents\LTspiceXVII\lib\cmp\standard.mos
.include cmosedu_models.txt
* Bitline to array0
* Bitline to array1
.ic v(bitline0)={vddhalf} v(bitline1)={vddhalf} v(mb1)={vdd}v(mb2)={0}v(mb3)={vdd}v(mb4)={vdd}
.tran 100ns uic
* Word line in array 0
* Word line in array 1
* Simulation Configuations
.param tw = 2.5um
.param ntw = 1um
.param pretw=2.5um
.param prentw=2.5um
* Bitline to array0
* Bitline to array1
* Word line in array 0
* Word line in array 1
* Bitline to array0
* Bitline to array1
* Word line in array 0
* Word line in array 1
* Bitline to array0
* Bitline to array1
* Word line in array 0
* Word line in array 1
* voltage charge pump
.param cap=200fF vdd=1.35V vddhalf=0.675V
* Bitline to array0
* Bitline to array1
* Word line in array 0
* Word line in array 1
* Bitline to array0
* Bitline to array1
* Word line in array 0
* Word line in array 1
.param vddhalfb1=0.338976V vddhalfb2=0.22481V vddhalfb3=0.121789V vddhalfb4=0.045993V
* Bitline to array0
* Bitline to array1
* Word line in array 0
* Word line in array 1
* Bitline to array0
* Bitline to array1
* Word line in array 0
* Word line in array 1
* Bitline to array1
.MEAS TRAN bitline2 FIND V(msb_2) AT=47.34ns
.MEAS TRAN bitline3 FIND V(msb_3) AT=47.34ns
.MEAS TRAN cpvoltage FIND V(charge_pump) AT=47.34ns
.MEAS TRAN bitline1 FIND V(msb_1) AT=47.34ns
.MEAS TRAN bitline4 FIND V(msb_4) AT=47.34ns
.backanno
.end
